US04175089
Octene-1 in an amount of 2.2 grams and 23.6 grams of ceric acetate were refluxed under nitrogen in 200 milliliters of glacial acetic acid containing 60 grams of potassium acetate for less than 0.4 hour, there being obtained a 31% yield of gamma-n-hexyl butyrolactone.

reactant | Octene-1 | CCCCCCC=C | C8H16
reactant | potassium acetate | C(C)(=O)[O-].[K+]
solvent | acetic acid | 200 milliliters, 60 grams | C(C)(=O)O | C2H4O2
product | gamma-n-hexyl butyrolactone | 31% yield | C(CCCCC)C1CCC(=O)O1 | C10H18O2
